US05962458
A solution of 6-methoxy-4-phenoxy-7-(4-pyridylmethoxy)quinazoline (200 mg, 0.56 mmol) in 2M hydrochloric acid (15 ml) was heated at reflux for 90 minutes. The reaction mixture was allowed to cool and neutralised to pH6-7 with aqueous ammonia. The precipitated product was extracted with methanol/methylene chloride (1:9) and the extract solution dried (MgSO4). Removal of the solvent by evaporation gave 6-methoxy-7-(4-pyridylmethoxy)-3,4-dihydroquinazolin-4-one (90 mg, 57%) as a grey solid.

reactant | 6-methoxy-4-phenoxy-7-(4-pyridylmethoxy)quinazoline | 0.56 mmol, 200 mg | COC=1C=C2C(=NC=NC2=CC1OCC1=CC=NC=C1)OC1=CC=CC=C1 | C21H17N3O3
reactant | ammonia | N | H3N
solvent | hydrochloric acid | 2M, 15 ml | Cl | ClH
product | 6-methoxy-7-(4-pyridylmethoxy)-3,4-dihydroquinazolin-4-one | 90 mg, 57% | COC=1C=C2C(NC=NC2=CC1OCC1=CC=NC=C1)=O | C15H13N3O3
